US08309736B2
Suzuki Coupling Reaction: Preparation of 1-Phenylnaphthalene
A solution of bromobenzene (1 mmol), of 1-naphthylboronic acid (1.2 mmol), of PdBr2 (2.5 mol %), and of triethylamine (2 mmol) in N,N′-butylmethylimidazolium methyl H-phosphonate of (1 g) is brought to 100° C. under stirring for 24 hrs. Extraction with hexane (3×5 mL) gives a white and sublimable solid (Mp 112-113° C.), (m=0.2 g; yield=98%).

reactant | bromobenzene | 1 mmol | BrC1=CC=CC=C1 | C6H5Br
reactant | 1-naphthylboronic acid | 1.2 mmol | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | triethylamine | 2 mmol | C(C)N(CC)CC | C6H15N
product | 1-Phenylnaphthalene | yield=98% | C1(=CC=CC=C1)C1=CC=CC2=CC=CC=C12 | C16H12
